US08685969B2
A mixture of (E)-benzyl (2-methyl-3-(2-nitroprop-1-en-1-yl)phenyl)carbamate (5.16 g, 15.8 mmol) and 6-bromo-1H-indole (6.20 g, 31.6 mmol) was heated neat at 140° C. overnight. The crude reaction mixture was purified by flash silica gel chromatography using a mixture of ethyl acetate in hexane (20%-35%-50%) to give benzyl (3-(1-(6-bromo-1H-indol-3-yl)-2-nitropropyl)-2-methylphenyl)carbamate (2.58 g, 4.94 mmol, 31% yield) as a burgundy oil/solid and as a 1:1 mixture of diastereomers.

reactant | (E)-benzyl (2-methyl-3-(2-nitroprop-1-en-1-yl)phenyl)carbamate | 15.8 mmol, 5.16 g | CC1=C(C=CC=C1\C=C(/C)\[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C18H18N2O4
reactant | 6-bromo-1H-indole | 31.6 mmol, 6.20 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
product | benzyl (3-(1-(6-bromo-1H-indol-3-yl)-2-nitropropyl)-2-methylphenyl)carbamate | 4.94 mmol, 2.58 g, 31% yield | BrC1=CC=C2C(=CNC2=C1)C(C(C)[N+](=O)[O-])C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C26H24BrN3O4
